Primeiro Lab
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* supply voltage
Va 7 4 5.21434780409V
*Dummy voltage source
Vdummy 1 8 0V
*Current Controlled Voltage Source
Hc 3 0 Vdummy 8.07016964594k

* supply Current

Id 0 2 DC 1.04967525215mA
Gb 2 5 (6,3) 7.12406804899m

*Resitências
R1 7 6 1.03979919241k
R2 5 6 2.07348604745k
R3 6 3 3.03922290863k
R4 4 3 4.02471521851k
R5 2 3 3.10131083327k
R6 4 1 2.05714481184k
R7 8 0 1.00418069758k



.control

*makes plots in color
*set hcopypscolor=0
*set color0=white
*set color1=black
*set color2=red
*set color3=blue
*set color4=violet
*set color5=rgb:3/8/0
*set color6=rgb:4/0/0

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"
*print @R3[i]
*print @Q1[ic]
*print @Rf[i]

echo  "op_TAB"
print all
echo  "op_END"


quit
.endc

.end
